datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCSc1nccc([O:21][H:20])[n+]1C.COc1cc2c(cc1[O-:10])OC(=O)C=C2>>CCSc1nccc([O-:21])[n+]1C.COc1cc2c(cc1[O:10][H:20])OC(=O)C=C2 10=20;20,21=21",
"CC[NH:10]C(C)C(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](C(C)C(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C#CCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C#CCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCN(CC)Cc1ccccc1[O-:10].O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n+:21]3[H:20])[C@@H](O)[C@H](O)[C@H]1O>>CCN(CC)Cc1ccccc1[O:10][H:20].O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n:21]3)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC[NH:10]C(C)C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](C(C)C(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCOc1ccc([O-:10])cc1.Cc1cc(C#N)cc(C)c1[O:21][H:20]>>CCCCOc1ccc([O:10][H:20])cc1.Cc1cc(C#N)cc(C)c1[O-:21] 10=20;20,21=21",
"CC1[NH2+]CCC[NH:10]1.Cc1cc(C)c([NH2+:21][H:20])cc1C[NH3+]>>CC1[NH2+]CCC[NH+:10]1[H:20].Cc1cc(C)c([NH2:21])cc1C[NH3+] 10=20;20,21=21",
"CCCC[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>CCCC[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c([N+](=O)[O-])c1.NCCCCCCCCCCCC[NH2:10]>>Cc1ccc(C(=O)[O-:21])c([N+](=O)[O-])c1.NCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cn1ncc2c(NC(C)(C)CC(C)(C)C)nc[n+:21]([H:20])c21.O=C([O-])c1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>Cn1ncc2c(NC(C)(C)CC(C)(C)C)nc[n:21]c21.O=C([O-])c1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCCCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])[C@H]1CCCC[C@@H]1[NH2+:21][H:20].[NH3+][C@H]1CC[C@@H](C(=O)[O-:10])CC1>>O=C([O-])[C@H]1CCCC[C@@H]1[NH2:21].[NH3+][C@H]1CC[C@@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"COc1cc(C[NH3+])c(C)cc1[NH2+:21][H:20].Cc1cc(Cl)ccc1C(=O)[O-:10]>>COc1cc(C[NH3+])c(C)cc1[NH2:21].Cc1cc(Cl)ccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)CCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCOC(=O)CCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(N)cc2)CCC1(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(N)cc2)[H:20])CCC1(C)C.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)N(C)c1nnc(S(=O)(=O)[NH-:10])s1.Fc1ccc([S:21][H:20])cc1>>CC(=O)N(C)c1nnc(S(=O)(=O)[NH:10][H:20])s1.Fc1ccc([S-:21])cc1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCC(=O)O[O:21][H:20].CCC[NH:10]Cc1ccc(C)cc1>>CCCC(=O)O[O-:21].CCC[NH+:10](Cc1ccc(C)cc1)[H:20] 10=20;20,21=21",
"CCCC[NH2+]CC/C(N)=[N:10]\O.Cc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>CCCC[NH2+]CC/C(N)=[N+:10](\O)[H:20].Cc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CC(=O)N1CS(=O)(=O)CC1C(=O)[O-:10].NC(=O)[N:21](S(=O)(=O)c1ccc(N)cc1)[H:20]>>CC(=O)N1CS(=O)(=O)CC1C(=O)[O:10][H:20].NC(=O)[N-:21]S(=O)(=O)c1ccc(N)cc1 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(Cl)cc2)cc1.C[NH+](C)c1ccc([N+:21](C)(C)[H:20])cc1>>COc1ccc(C(=S)[N:10](c2ccc(Cl)cc2)[H:20])cc1.C[NH+](C)c1ccc([N:21](C)C)cc1 10=20;20,21=21",
"CC1(C)C[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1(C)C[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c[n+:21]([H:20])ncc2[nH]1.O=C1c2ccccc2C(=O)[N-:10]1>>COc1cc(S(C)=O)ccc1-c1nc2c[n:21]ncc2[nH]1.O=C1c2ccccc2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"C1=C(c2ccco2)C2CC[N:10]1CC2.COC(=O)C1C[N+:21]2([H:20])CCC1CC2>>C1=C(c2ccco2)C2CC[N+:10]1([H:20])CC2.COC(=O)C1C[N:21]2CCC1CC2 10=20;20,21=21",
"O=[N+]([O-])c1cccc([O-:10])c1.[NH3+]C(CC(=O)[O-])c1cccc[n+:21]1[H:20]>>O=[N+]([O-])c1cccc([O:10][H:20])c1.[NH3+]C(CC(=O)[O-])c1cccc[n:21]1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2+:21][H:20].Nc1cc([NH2:10])ccc1O>>CC(Cc1ccccc1)[NH2:21].Nc1cc([NH2+:10][H:20])ccc1O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(Br)(C[NH2:10])[N+](=O)[O-]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(Br)(C[NH2+:10][H:20])[N+](=O)[O-] 10=20;20,21=21",
"CC(C)(N)C(C)(C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(N)C(C)(C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N[N:21](C(=O)C(F)F)[H:20].O=[N+]([O-])c1ccccc1[O-:10]>>N[N-:21]C(=O)C(F)F.O=[N+]([O-])c1ccccc1[O:10][H:20] 10=20;20,21=21",
"O=Nc1c([O:21][H:20])ccc2ncsc12.O=[N+]([O-])c1ccc2[nH]c(CO)[n:10]c2c1>>O=Nc1c([O-:21])ccc2ncsc12.O=[N+]([O-])c1ccc2[nH]c(CO)[n+:10]([H:20])c2c1 10=20;20,21=21",
